US05109012
Crude 2-(2,6-dichloro-4-trifluoromethylphenyl)-5-methyl-2H-1,2,3-triazole-4-thiol, prepared as in EP No. 350 237, (10 g) in tetrahydrofuran (50 ml) was added to a stirred suspension of sodium hydride (80%, dispersion in oil, 1.0 g) in tetrahydrofuran (50 ml) at 0°. Then a solution of 2-bromo-4,5-dicyano-1-(2-trimethylsilylethoxymethyl)-1H-imidazole (10 g) in tetrahydrofuran (100 ml) was added, dropwise, with stirring at 0°-5°. The mixture was stirred at room temperature for 20 hours and then was poured into water and extracted with ethyl acetate. Conventional work-up and purification by column chromatography gave 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-[4,5-dicyano-1-(2-trimethylsilylethoxymethyl]-1H-imidazol-2-ylthio]-5-methyl-2H-1,2,3-triazole, as a pale yellow oil, nD 24°=1.526 (compound 9a).

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-5-methyl-2H-1,2,3-triazole-4-thiol | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=N1)S)C | C10H6Cl2F3N3S
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2-bromo-4,5-dicyano-1-(2-trimethylsilylethoxymethyl)-1H-imidazole | 10 g | BrC=1N(C(=C(N1)C#N)C#N)COCC[Si](C)(C)C | C11H15BrN4OSi
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-[4,5-dicyano-1-(2-trimethylsilylethoxymethyl]-1H-imidazol-2-ylthio]-5-methyl-2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=N1)SC=1N(C(=C(N1)C#N)C#N)COCC[Si](C)(C)C)C | C21H20Cl2F3N7OSSi
